Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mr. ___ is a ___ man with EtOH use disorder,
alcohol-induced gastritis, and psoriasis who presented to the ED
with abdominal and chest pain. He is admitted for management of
___ and alcohol withdrawal.  
 The patient developed acute-onset severe epigastric abdominal
pain on the evening of ___ after drinking 1 pint of vodka with
orange juice. He states that his most recent binge was due to
nervousness, which is usually the trigger for his binges. The
pain is associated with nausea and non-bloody, non-bilious
vomiting x1. Throughout the evening his pain worsened and began
to radiate to his left chest. The chest pain is not exacerbated
by inspiration or on exertion. He has had no diarrhea or
constipation. He does not have a history of pancreatitis. 
 In the ED, he was afebrile, HRs 110s, BP 120/80, SpO2 99%RA.
Labs notable for WBC 16, Hgb and Plt normal, HCO3 17 (gap 36), 
Cr
1.3 (unknown baseline), Trop < .01, UA w/ 40 Ket and neg utox,
VBG 7.42/32. EKG sinus, no acute ischemic changes. For his
abdominal pain, he had a CT A/P that showed hepatic steatosis 
and
no evidence of acute pancreatitis / gastritis. CXR was
unremarkable. He was given diazepam 10mg per CIWA scale, Zofran,
and 1L LR.  
 Transfer VS were: 98.4 87 129/68 18 93% RA 
 
 On arrival to the floor, patient reports some dizziness,
abdominal pain, and nausea although it is somewhat improved. No
fevers, chills, chest pain, or SOB. He had one episode of
diarrhea after administration of contrast in the ED. He is
interested in stopping drinking and getting treatment for his
alcohol use and nervousness.
 
Past Medical History:
Psoriasis  
Anxiety
Alcohol use  

 
Social History:
___
Family History:
Performed and determined to be non-contributory to this 
admission
 
Physical Exam:
ADMISSION
=========
VITALS: T98.4 HR 87 BP 129/68 RR18 93% RA 
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: No cyanosis, clubbing, or edema. LEs with evidence
of plaque psoriasis. 
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric. Mild bilateral hand tremor.
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE
=========
VITALS: ___ 0522 Temp: 98.2 PO BP: 129/70 L Lying HR: 77 
RR:
18 O2 sat: 93% O2 delivery: Ra 
GENERAL: Alert and oriented, no acute distress
ENT: NT/AC, PERRLA, EOMI
CV: RRR, no murmurs, rubs, or gallops
RESP: CTAB
GI: NT/ND, BS+
NEURO: CNII-XII grossly intact, no focal neurologic deficit
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:22PM   NEUTS-82.5* LYMPHS-11.4* MONOS-4.4* EOS-0.1* 
BASOS-1.0 IM ___ AbsNeut-13.68* AbsLymp-1.88 AbsMono-0.73 
AbsEos-0.01* AbsBaso-0.16*
___ 06:22PM   WBC-16.6* RBC-5.81 HGB-16.0 HCT-50.9 MCV-88 
MCH-27.5 MCHC-31.4* RDW-15.3 RDWSD-48.4*
___ 06:22PM   cTropnT-<0.01
___ 06:22PM   LIPASE-15
___ 06:22PM   ALT(SGPT)-30 AST(SGOT)-64* ALK PHOS-120 TOT 
BILI-0.8
___ 06:22PM   GLUCOSE-92 UREA N-26* CREAT-1.3* SODIUM-145 
POTASSIUM-4.6 CHLORIDE-92* TOTAL CO2-17* ANION GAP-36*
___ 09:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

IMAGING
=======
CT Abdomen and Pelvis ___
HEPATOBILIARY: Hepatic steatosis with a lobulated contour.  
There is no 
evidence of focal lesions within the limitations of an 
unenhanced scan. There is no evidence of intrahepatic or 
extrahepatic biliary dilatation.  Punctate stone is noted within 
the gallbladder.  No evidence of acute cholecystitis. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions within the limitations of an 
unenhanced scan. There is no 
pancreatic ductal dilatation.  There is no peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size.  There is 
no evidence of focal renal lesions within the limitations of an 
unenhanced scan. There is no hydronephrosis. There is no 
nephrolithiasis.  There is stranding of perinephric fat. 
  
GASTROINTESTINAL: Right anterior diaphragmatic hernia containing 
a loop of 
transverse bowel. No evidence of bowel obstruction.  There is a 
small hiatal hernia.  The stomach is unremarkable without 
evidence of gastritis. Small bowel loops demonstrate normal 
caliber, wall thickness, and enhancement throughout. The colon 
and rectum are within normal limits. The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
normal. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy. There is no pelvic or inguinal lymphadenopathy. 

  
VASCULAR: There is no abdominal aortic aneurysm. Mild 
atherosclerotic disease is noted. 
  
BONES: Sclerotic focus within the right iliac bone likely 
represents a bone island (2:75).  There is no evidence of 
worrisome osseous lesions or acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 

IMPRESSION: 
1. Hepatic steatosis with a lobulated contour and a cirrhotic 
morphology. 
2. No evidence of acute pancreatitis or gastritis.

DISCHARGE LABS
==============
___ 07:00AM BLOOD WBC-6.1 RBC-4.76 Hgb-13.4* Hct-41.5 
MCV-87 MCH-28.2 MCHC-32.3 RDW-14.7 RDWSD-47.5* Plt ___
___ 07:00AM BLOOD Glucose-77 UreaN-15 Creat-1.3* Na-140 
K-3.9 Cl-96 HCO3-26 AnGap-18
 
Brief Hospital Course:
PATIENT SUMMARY
===============
Mr. ___ is a ___ man with EtOH use disorder, 
alcohol-induced gastritis, and psoriasis who presented to the ED 
with abdominal and chest pain. He was admitted for management of 
___ and alcohol withdrawal. He was treated on CIWA protocol and 
received two doses of diazepam, Zofran for nausea. His 
chest/abdominal pain and nausea resolved and he was able to 
tolerate PO. He was started on acamprosate to reduce cravings 
for alcohol and provided a list of community resources by social 
work. His creatinine remained stable at 1.3 (baseline 1.0-1.1), 
likely pre-renal in the setting of poor PO intake and vomiting, 
a repeat BMP will be scheduled for ___ with PCP ___.

ACUTE ISSUES
============
# EtOH use disorder 
# EtOH withdrawal. 
Maintained on CIWA, received IVF, thiamine. Acamprosate started.

# ___ vs CKD 
Unclear what patient's baseline Cr is, last one on record was 
1.0
in ___. Cr of 1.3 likely represents dehydration iso poor po
intake iso alcohol use. Repeat BMP ___ with PCP followup as 
above.

CHRONIC / RESOLVED ISSUES
=========================
# Anion gap metabolic acidosis. Given normal lactate and pos
urine ketones, likely alcoholic ketoacidosis and non-gap 
acidosis
from vomiting. Compensating appropriately from a respiratory
standpoint. Resolved with IVF and improved PO intake.

# Abdominal Pain. 
No evidence of pancreatitis on CT, neg lipase. LFTs general 
unremarkable outside of elevated AST so unlikely to be 
hepatobiliary in origin. Likely gastritis related to EtOH 
intake. No e/o GIB in history or on exam. Likely secondary to 
alcohol-induced gastritis.

#Psoriasis
Continued Hydrocortisone cream

TRANSITIONAL ISSUES
===================
[ ] Follow up alcohol cravings / EtOH use disorder on 
acamprosate. Would also continue to encourage group therapy, 
etc. as outpatient.

[ ] Follow up creatinine on ___. Unclear if this is his current 
baseline with mild CKD that needs further workup or if just 
pre-renal this admission from dehydration / vomiting.

[ ] Drinking binges seem to be related to episodes of 
"nervousness" and social stress. Continue to encourage 
appropriate coping strategies and consider potential SSRI if it 
seems like there is an aspect of generalized anxiety disorder / 
depression involved.

NEW MEDICATIONS: Acamprosate 666MG TID
CHANGED MEDICATIONS: None
DISCONTINUED MEDICATIONS: None

CODE: Full (presumed) 
CONTACT: Daughter ___ (___)
 
___ on Admission:
None
 
Discharge Medications:
1.  Acamprosate 666 mg PO TID 
RX *acamprosate 333 mg 2 tablet(s) by mouth three times a day 
Disp #*180 Tablet Refills:*0 
2.Outpatient Lab Work
Please draw a CMP on ___.
ICD 10 Code: N17.9
Please Fax results to: ___
ATTN: ___, MD
___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol Intoxication

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were intoxicated and had abdominal pain, nausea, and 
vomiting.

- Your lab test showed that you had a slightly kidney injury, 
likely due to dehydration and vomiting.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were treated with IV fluids, vitamins, and nausea 
medication. You recovered and were able to eat food without any 
nausea or abdominal pain.

- You were started on a medication called acamprosate to 
decrease you alcohol cravings and a list of community resources 
for alcohol abuse treatment.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines including your new 
acomprosate.

- You should go to the ___ on 
___ to have your blood drawn. Dr. ___ will receive 
the results of this test and let you know if there are any 
abnormalities.

- You should keep your scheduled follow up with Dr. ___ 
___.

We wish you the best!  

Sincerely,  
Your ___ Team 
 
Followup Instructions:
___